* Netlist provenance snapshot -- sim/README.md convention
* Frozen from design/sg13cmos5l/netlist/loop_filter.spice at commit b7165f9c992581e295b536e782655e83799ca309
* (PR #26, "schematic: port PLL blocks to SG13CMOS5L", Closes #22)
* Simulated by sim/sg13cmos5l-loop-filter-momcap/ (issue #23, Part of #16).
* Independent of whatever design/sg13cmos5l/netlist/loop_filter.spice says today.
*
* sg13g2-pll :: loop_filter (SG13CMOS5L) -- generated by design/sg13cmos5l/netlist.sh from loop_filter.sch
* xschem XSCHEM V3.4.7; do not edit by hand.
** sch_path: design/sg13cmos5l/loop_filter.sch
.subckt loop_filter VCTRL VSS
*.iopin VCTRL
*.iopin VSS
XR1 VCTRL NZ sub! rppd w=4u l=120u m=1 b=0
XC1 NZ VSS cap_cmomi w=40u l=40u mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC2 VCTRL VSS cap_cmomi w=10u l=10u mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
.ends
